US04829074
A solution of 4-trifluoromethoxybromobenzene (45.79 g) in dry tetrahydrofuran (200 cm3) was added carefully to a stirred mixture of magnesium turnings (4.56 g), iodine (1 crystal) and dry tetrahydrofuran (70 cm3). The reaction commenced after about 20 cm3 of the solution had been added, and the reaction was maintained at the reflux temperature whilst the remainder of the solution was added, and thereafter for a further 1 hour. The mixture was cooled to the ambient temperature and a solution of methyl 2-(1,2,3,4-2H-tetrazol-2-yl)propionate (13.95 g), in dry tetrahydrofuran (60 ml) added dropwise, after which the mixture was heated at the reflux temperature for 30 minutes. The mixture was cooled and poured into water (500 cm3) and acidified with 2N hydrochloric acid (250 cm3). The aqueous mixture was extracted with diethylether (3×400 cm3), the ethereal extracts combined, dried over anhydrous magnesium sulphate, and concentrated by removal of the solvent by evaporation under reduced pressure. The residual oil (30.5 g) was subjected to purification by chromatography using a silica gel column eluted with a mixture of hexane (4 parts by volume) and ethylacetate (1 part by volume), and by hplc to yield 1,1-bis(4-trifluoromethoxyphenyl)-2-(1,2,3,4-2H-tetrazol-2-yl)propan-1-ol as a colourless oil (10 g) which crystallized on standing (mp. 55°-58° C.).

reactant | 4-trifluoromethoxybromobenzene | 45.79 g | FC(OC1=CC=C(C=C1)Br)(F)F | C7H4BrF3O
reactant | magnesium | 4.56 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | methyl 2-(1,2,3,4-2H-tetrazol-2-yl)propionate | 13.95 g | N=1N(N=NC1)C(C(=O)OC)C | C5H8N4O2
reactant | hydrochloric acid | 2N, 250 cm3 | Cl | ClH
solvent | tetrahydrofuran | 200 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 cm3 | O1CCCC1 | C4H8O
solvent | water | 500 cm3 | O | H2O
product | 1,1-bis(4-trifluoromethoxyphenyl)-2-(1,2,3,4-2H-tetrazol-2-yl)propan-1-ol | 10 g | FC(OC1=CC=C(C=C1)C(C(C)N1N=CN=N1)(O)C1=CC=C(C=C1)OC(F)(F)F)(F)F | C18H14F6N4O3
